US05990108
3.07 g of ammonium acetate are added to a solution of 2.15 g of ethyl 1-(4-carbethoxymethyl-1-oxoindan-2-yl)-4-(2-carbethoxyphenyl)imidazole-2-carboxylate in 25 ml of acetic acid and the mixture is stirred for 4 hours 30 minutes at boiling temperature and then concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 50° C. The product obtained is dissolved in 100 ml of methylene chloride and the solution is washed 3 times with a total of 150 ml of distilled water, dried over anhydrous sodium sulphate and concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 50° C. The product obtained is washed 4 times with a total of 200 ml of ethyl ether and dried under reduced pressure (0.5 mm Hg; 0.07 kPa) at 60° C. 1.4 g of ethyl 2-(2-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate are thus obtained in the form of a grey powder which decomposes without melting above 260° C. [1H NMR spectrum in DMSO-d6, T=300K, δ in ppm (250 MHz): 1.15 (3H, t, J=6 Hz, CH3), 1.25 (3H, t, J=6 Hz, CH3), 3.87 (2H, s, CH2CO), 4.00 (2H, s, CH2), 4.15 (2H, q, J=6 Hz, OCH2), 4.27 (2H, q, J=6 Hz, OCH2), 7.25 (1H, d, J=7 Hz, arom. CH), 7.42 and 7.50 (1H each, t, J=7 Hz, 2 arom. CH), 7.65 (2H, m, 2 arom. CH), 7.85 (2H, m, 2 arom. CH), 8.30 (1H, s, imidazole CH), 12.50 (1H, s, NHCO)].

reactant | ammonium acetate | 3.07 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl 1-(4-carbethoxymethyl-1-oxoindan-2-yl)-4-(2-carbethoxyphenyl)imidazole-2-carboxylate | 2.15 g | C(=O)(OCC)CC1=C2CC(C(C2=CC=C1)=O)N1C(=NC(=C1)C1=C(C=CC=C1)C(=O)OCC)C(=O)OCC | C28H28N2O7
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(2-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate | 1.4 g | C(=O)(OCC)C1=C(C=CC=C1)C=1N=C2N(C3=C(NC2=O)C=2C=CC=C(C2C3)CC(=O)OCC)C1 | C26H23N3O5
